US04727158
4-tert-Octyl-2-nitrobenzene Diazonium Chloride
In a 100-ml flask fitted with a stirrer and thermometer, 15.0 grams (0.06 mole) of 4-tert-octyl-2-nitroaniline is suspended in 20 ml of toluene. To this is added at 25° C. 17.3 grams (0.18 mole) of concentrated hydrochloric acid. The suspension is stirred at 38° C. for 1 hour followed by the addition of 6 ml of water. The mixture becomes thick as the corresponding hydrochloride salt crystallized as a granular precipitate. The mixture is cooled to 0° C. and diazotized by the addition over a period of 30 minutes of 4.3 grams (0.062 mole) of sodium nitrite in 6 ml of water keeping the temperature at -5° C. to -2° C. The mixture is stirred at -2° C. for 1 hour. Two phases occur. The combined phases contain the desired diazonium chloride and are used as is.

reactant | 4-tert-octyl-2-nitroaniline | 0.06 mole, 15.0 grams | C(C)(C)(CC(C)(C)C)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C14H22N2O2
reactant | hydrochloric acid | 0.18 mole, 17.3 grams | Cl | ClH
reactant | sodium nitrite | 0.062 mole, 4.3 grams | N(=O)[O-].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 6 ml | O | H2O
solvent | water | 6 ml | O | H2O
product | 4-tert-Octyl-2-nitrobenzene Diazonium Chloride | [Cl-].C(C)(C)(CC(C)(C)C)C1=CC(=C(C=C1)[N+]#N)[N+](=O)[O-] | InChI=1S/C14H20N3O2.ClH/c1-13(2,3)9-14(4,5)10-6-7-11(16-15)12(8-10)17(18)19;/h6-8H,9H2,1-5H3;1H/q+1;/p-1
